US09388189B2
(S)-2-(1-((6-Bromothieno[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-Aminoethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (219 mg, 0.72 mmol) was treated with 6-bromo-4-chlorothieno[2,3-d]pyrimidine (179 mg, 0.72 mmol), N,N-diisopropylethylamine (751 μl, 4.31 mmol) and tert-butanol as a solvent according to the method described in Example 17. The crude was purified using SP1® Purification (0% to 30%, hexane-ethyl acetate) to give 148 mg (42% yield) of the title compound as a white solid. Purity 97%.

reactant | (S)-2-(1-Aminoethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.72 mmol, 219 mg | N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C15H16N4O
reactant | 6-bromo-4-chlorothieno[2,3-d]pyrimidine | 0.72 mmol, 179 mg | BrC1=CC2=C(N=CN=C2Cl)S1 | C6H2BrClN2S
reactant | N,N-diisopropylethylamine | 4.31 mmol, 751 μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | tert-butanol | C(C)(C)(C)O | C4H10O
product | (S)-2-(1-((6-Bromothieno[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 148 mg, 42% yield | BrC1=CC2=C(N=CN=C2N[C@@H](C)C2=NN3C(C(N2C2=CC=CC=C2)=O)=C(C=C3)C)S1 | C21H17BrN6OS
